US07361677B2
4-Benzyloxy-3-chloro-benzoic acid methyl ester (CAB02121)
A mixture of 3-chloro-4-hydroxy benzoic acid methyl ester (4.665 g, 25 mmol), benzyl bromide (5.13 g, 30 mmol) and potassium carbonate (6.91 g, 50 mmol) in N,N-dimethylformamide (50 mL) was stirred overnight at room temperature. The reaction mixture was poured onto crushed ice (ca. 300 g) and the product was extracted with ethyl acetate (2×100 mL). The combined organic layers were dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in dichloromethane and precipitated by addition of hexane. Yield: 6.47 g (94%) white powder. 1H-NMR (400 MHz, CDCl3) δ=3.90 (s, 3H, —OCH3), 5.23 (s, 2H, —CH2Ar), 6.99 (d, J=9.0 Hz, 1H), 7.31-7.48 (m, 5H), 7.89 (dd, J=9.0, 2.3 Hz, 1H), 8.08 (d, J=2.3 Hz, 1H).

reactant | 3-chloro-4-hydroxy benzoic acid methyl ester | 25 mmol, 4.665 g | COC(C1=CC(=C(C=C1)O)Cl)=O | C8H7ClO3
reactant | benzyl bromide | 30 mmol, 5.13 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 50 mmol, 6.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-Benzyloxy-3-chloro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)Cl)=O | C15H13ClO3
